US06962890B2
Into a 1 liter reactor thoroughly dried and purged with argon, 36.6 ml of an ether solution containing 110 mmol of ethylmagnesium bromide and 73.4 ml of ether were introduced. To the reactor, a solution containing 18.39 g (100 mmol) of 2-tert-butyl-4-methoxyphenol diluted with 90 ml of a THF was dropwise added at 0° C. over a period of 30 minutes, then the temperature of the system was slowly raised to room temperature, and the reaction solution was stirred at room temperature for 1 hour. Then, 350 ml of toluene was added, and the system was heated to 100° C. to distill off about 180 ml of a mixed solution of ether and THF, whereby an opaque white slurry was obtained. After the slurry was cooled to 50° C., 4.50 g (150 mmol) of paraformaldehyde and 21.0 ml (150 mmol) of triethylamine were added, followed by stirring at 80 to 90° C. for 1.5 hours. The reaction solution was allowed to cool to room temperature and then quenched with 10% hydrochloric acid. The organic layer was concentrated, and the solid precipitated was vacuum dried to obtain 11.66 g (yield: 56%) of 3-t-butyl-5-methoxysalicylaldehyde.

reactant | ethylmagnesium bromide | 110 mmol | C(C)[Mg]Br
reactant | 2-tert-butyl-4-methoxyphenol | 100 mmol, 18.39 g | C(C)(C)(C)C1=C(C=CC(=C1)OC)O | C11H16O2
reactant | paraformaldehyde | 150 mmol, 4.50 g | C=O | CH2O
reactant | triethylamine | 150 mmol, 21.0 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 73.4 ml | CCOCC | C4H10O
product | 3-t-butyl-5-methoxysalicylaldehyde | 11.66 g, yield: 56% | C(C)(C)(C)C1=C(C(C=O)=CC(=C1)OC)O | C12H16O3
